US07700634B2
1-(Cyclohexyl)methyl-3-{2-[(diethylamino)methyl]-[1,3]-thiazol-4-yl}-7-methoxy-1H-indole, hydrochloride salt
Methanesulfonyl chloride (174 μl, 2.25 mmol) was added to a solution of 1-(cyclohexyl)methyl-3-[2-(hydroxymethyl)thiazol-4-yl]7-methoxy-1H-indole (0.40 g, 1.12 mmol) and pyridine (182 μl, 2.25 mmol) in dichloromethane (8 ml). The resulting mixture was stirred at room temperature overnight. Further methanesulfonyl chloride (87 μl, 1.12 mmol) was added and stirring continued for 0.5 h. The mixture was concentrated in vacuo and the resulting orange residue was purified by flash column chromatography eluting with dichloromethane to afford 3-[2-(chloromethyl)thiazol-4-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole as a yellow oil (0.415 g). 3-[2-(Chloromethyl)thiazol-4-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole (0.08 g, 0.214 mmol) and diethylamine (221 μl, 2.14 mmol) were dissolved in acetonitrile (2 ml). The resulting mixture was exposed to microwave irradiation at 100° C. for 5 min. The mixture was concentrated in vacuo and the resulting residue was purified by column chromatography eluting with 33% (v/v) ethyl acetate in n-heptane. The resulting product was taken up in diethyl ether and hydrogen chloride (1M solution in diethyl ether; 1 ml) was added. The solution was concentrated in vacuo and the resulting solid triturated with ether, then dried to afford the title compound as a 1:1 hydrochloride salt (0.034 g). 1H NMR (400 MHz, CD3OD) δ 0.99-1.25 (5H, m), 1.43 (6H, t, J 7.5), 1.56-1.90 (6H, m), 3.35-3.42 (4H, m), 3.96 (3H, s), 4.27 (2H, d, J 7.5), 4.75-4.80 (2H, s, masked by H2O peak), 6.75 (1H, d, J 8.0), 7.08 (1H, dd, J 8.0, 8.0), 7.64-7.68 (3H, m). EsIMS: m/z 412.1 [M+H]+, 339.0.

reactant | 3-[2-(Chloromethyl)thiazol-4-yl]-1-(cyclohexyl)methyl-7-methoxy-1H-indole | 0.214 mmol, 0.08 g | ClCC=1SC=C(N1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C20H23ClN2OS
reactant | diethylamine | 2.14 mmol, 221 μl | C(C)NCC | C4H11N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-(Cyclohexyl)methyl-3-{2-[(diethylamino)methyl]-[1,3]-thiazol-4-yl}-7-methoxy-1H-indole, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1N=C(SC1)CN(CC)CC | InChI=1S/C24H33N3OS.ClH/c1-4-26(5-2)16-23-25-21(17-29-23)20-15-27(14-18-10-7-6-8-11-18)24-19(20)12-9-13-22(24)28-3;/h9,12-13,15,17-18H,4-8,10-11,14,16H2,1-3H3;1H
